US07115750B1
N-[6-[2-(1-Pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide
Methanesulfonyl chloride (0.131 ml, 1.69 mmol) was added to a dimethylformamide solution (7 ml) of N-[6-(2-hydroxyethyl)-7,8-dihydro-2-naphthalenyl]acetamide (355 mg, 1.53 mmol) obtained in Reference Example 102 and triethylamine (0.235 ml, 1.69 mmol) under ice-cooling, which was stirred for 30 minutes. Pyrrolidine (0.384 ml, 4.60 mmol) was added to the reaction mixture, which was stirred at 60° C. for 4 hours. The solvent was distilled out under reduced pressure. Ethyl acetate was added to the residue, and extraction was conducted using 1N hydrochloric acid. Potassium carbonate was added to the extract to make it alkaline, and extraction was conducted using ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and the solvent was distilled out under reduced pressure. The resulting residue was purified by alumina column chromatography (development solvent; ethyl acetate), to give the titled compound (294 mg).

reactant | Methanesulfonyl chloride | 1.69 mmol, 0.131 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-[6-(2-hydroxyethyl)-7,8-dihydro-2-naphthalenyl]acetamide | 1.53 mmol, 355 mg | OCCC1=CC=2C=CC(=CC2CC1)NC(C)=O | C14H17NO2
reactant | triethylamine | 1.69 mmol, 0.235 ml | C(C)N(CC)CC | C6H15N
reactant | Pyrrolidine | 4.60 mmol, 0.384 ml | N1CCCC1 | C4H9N
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | N-[6-[2-(1-Pyrrolidinyl)ethyl]-7,8-dihydro-2-naphthalenyl]acetamide | 294 mg | N1(CCCC1)CCC1=CC=2C=CC(=CC2CC1)NC(C)=O | C18H24N2O
